US08034822B2
Compound 1: (S)-2-(2,4-dioxo-1,2-dihydroquinazolin-3(4H)-yl)-4-methylpentanoic acid
Refer to Scheme 1, a mixture of methyl 2-isocyanatobenzoate (0.5 g, 2.82 mmol) and (S)-methyl leucinate HCl (0.52 g, 2.82 mmol) salt and 1 mL of Et3N was heated to 80° C. for 2 hours. 2 mL of 2M NaOH aqueous solution was added to above mixture and then heated to 100° C. overnight. The mixture was neutralized with concentrated HCl. Extracted by EtOAc and dried over MgSO4. Removing solvent gave the crude product, which used for next step without further purification. [M+H] calc'd for C14H16N2O4, 277; found, 277.

reactant | methyl 2-isocyanatobenzoate | 2.82 mmol, 0.5 g | N(=C=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO3
reactant | (S)-methyl leucinate HCl | 2.82 mmol, 0.52 g | Cl.N[C@@H](CC(C)C)C(=O)OC
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | (S)-2-(2,4-dioxo-1,2-dihydroquinazolin-3(4H)-yl)-4-methylpentanoic acid | O=C1NC2=CC=CC=C2C(N1[C@H](C(=O)O)CC(C)C)=O | C14H16N2O4
